US04032323
A warm solution of n-propyl 3-iminobutyrate (18.2 g.) in toluene (75 ml.) was added to a stirred solution of phenoxycarbonyl isothiocyanate (22.8 g.) in toluene (75 ml.). The temperature of the mixture rose from 20° C. to 35° C. The mixture was then stirred for 1.5 hours at the ambient temperature, filtered and the residue washed with light petroleum (b.p. 40°-60° C.) to give 3-imino-2-n-propoxycarbonyl-N-phenoxycarbonylthiobutyramide (36 g.) in the form of an orange solid. This solid was dissolved in ethyl acetate (125 ml.) and treated at 2°-5° C. with a solution of bromine (0.7 ml.) in ethyl acetate (40 ml.) over 15 minutes. The mixture was stirred at the ambient temperature for 1.5 hours and then filtered to give 3-methyl-5-phenoxycarbonylamino-4-n-propoxycarbonylisothiazole hydrobromide (28 g.), m.p. 157°-163° C.

reactant | n-propyl 3-iminobutyrate | 18.2 g | N=C(CC(=O)OCCC)C | C7H13NO2
reactant | phenoxycarbonyl isothiocyanate | 22.8 g | O(C1=CC=CC=C1)C(=O)N=C=S | C8H5NO2S
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | 3-imino-2-n-propoxycarbonyl-N-phenoxycarbonylthiobutyramide | 36 g | N=C(C(C(=S)NC(=O)OC1=CC=CC=C1)C(=O)OCCC)C | C15H18N2O4S
